US04472191
6-Methyl-3-methoxy-5-dimethylphosphono-6H-1,2,4,6-thiatriazine-1,1-dioxide (compound No.3)
145 parts of trimethyl phosphite were added, in the course of 40 minutes, to 165 parts of 5-chloro-6-methyl-3-methoxy-6H-1,2,4,6-thiatriazine-1,1-dioxide in 550 parts of toluene at from 38° to 41° C., while stirring. The reaction mixture was heated to 70° C. in the course of 30 minutes, and stirring was continued at this temperature for 13/4 hours. Thereafter, the solution was decanted off from the small amount of tacky residue, and was freed from volatile constituents at 80° C./0.2 mbar. The residue was dissolved in 300 parts of ethyl acetate, and the solution was chromatographed over neutral aluminum oxide. After evaporating down under reduced pressure, 192 parts (96% of theory) of 6-methyl-3-methoxy-5-dimethylphosphono-6H-1,2,4,6-thiatriazine-1,1-dioxide of nD25 =1.4998 were obtained.

reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
reactant | 5-chloro-6-methyl-3-methoxy-6H-1,2,4,6-thiatriazine-1,1-dioxide | ClC1=NC(=NS(N1C)(=O)=O)OC | C4H6ClN3O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-Methyl-3-methoxy-5-dimethylphosphono-6H-1,2,4,6-thiatriazine-1,1-dioxide | CN1C(=NC(=NS1(=O)=O)OC)P(=O)(OC)OC | C6H12N3O6PS
